US04632939
4-Nitro-N-(1,2,3,4-tetrahydro-1-naphthalenyl)-benzamide
A solution of 18.9 g of 4-nitrobenzoyl chloride in 100 ml of tetrahydrofuran was added rapidly to a solution of 10.0 g of 1,2,3,4-tetrahydro-1-naphthylamine in 200 ml of tetrahydrofuran and 180 ml of 20% aqueous potassium carbonate. The reaction mixture was stirred vigorously and heated at reflux for 2 hours. After cooling, the layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic portions were washed with water, 1N hydrochloric acid, water, and a saturated sodium chloride solution, dried over sodium sulfate, and concentrated in vacuo. The resulting solid was recrystallized from benzene to afford the title intermediate in 90% yield as a colorless solid, m.p. 156°-157° C.

reactant | 4-nitrobenzoyl chloride | 18.9 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 1,2,3,4-tetrahydro-1-naphthylamine | 10.0 g | C1(CCCC2=CC=CC=C12)N | C10H13N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | potassium carbonate | 180 ml | C([O-])([O-])=O.[K+].[K+]
product | 4-Nitro-N-(1,2,3,4-tetrahydro-1-naphthalenyl)-benzamide | 90% yield | [N+](=O)([O-])C1=CC=C(C(=O)NC2CCCC3=CC=CC=C23)C=C1 | C17H16N2O3
